*Netlist 2

*Source
I1 0 99 15u;15uA current source; changed from (1)=>(99) for metering

*Resistors
R1 0 1 1Meg; 1M ohm Resistor; (1 0)=>(0 1) changed for mesh current //m or M is x10^-3, use Meg x10^6
R2 1 0 4Meg; 4M ohm Resistor
R3 99 2 200k; 200k ohm Resistor; changed from(1)=>(99) for metering
R4 2 0 600k; 600k ohm Resistor

* Metering Source
Vmtr 1 99 0; Metering source to get mesh 2 current

* Mesh Analysis
; Mesh Current 1 given by I(R1)
; Mesh Current 2 given by I(Vmtr)
; Mesh Current 3 given by I(R3) and I(R4)

*Directives
.op ;Dc operating point
