* Netlist 2
; go to LTSpice help under circuit elemtnts for a list of parts

*Source
I1 2 4 5; 5A current source
E1 1 4 0 5 3; (3Va) Dependent source va at R6 with gain 3

*Resistors 
R1 1 2 20; 20 ohm Resistor
R2 2 3 6; 6 ohm Resistor
R3 3 5 11; 11 ohm Resistor
R4 4 5 25; 25 ohm Resistor
R5 4 0 5; 5 ohm Resistor
R6 5 0 12; 12 ohm Resistor

* Mesh Analysis
; Mesh Current 1 given by I(R1)
; Mesh Current 2 given by I(R2) and I(R3)
; Mesh Current 3 given by I(R5) and I(R6)

*Directives
.op ; Dc operating point