* Netlist 2
; go to LTSpice help under circuit elemtnts for a list of parts

*Source
V1 A 0 120; 120V voltage source
F1 A V2 Vmtr 5; (5Ia) Current Dependent Source Ia at R2 with gain 5

*Metering Ssource
Vmtr 99 V1 0; metering for dependent source

*Resistors
R1 A V1 3k; 3k ohm Resistor
R2 99 V2 1Meg; 1Meg ohm Resistor
R3 V1 0 8k; 8k ohm Resistor
R4 V2 0 5k; 5k ohm Resistor

* Circuit Analysis
; Current in Current Dependent Curent Source given by I(Vmtr)

*Directives
.op ; Dc operating point
